US09340546B2
A microwave vial was charged with methyl 1-(3-amino-4-pyridyl)piperidine-4-carboxylate (prepared according to methods similar to the one depicted in Preparation N-1) (176 mg, 0.7106 mmol), MeOH (3 mL) and H2O (0.1 mL). LiOH (51.06 mg, 2.132 mmol) was added and the mixture was stirred overnight at 50° C. The reaction was quenched by addition of an aqueous solution of HCl until pH=3-4 is reached. The reaction mixture was then concentrated under reduced pressure to yield 1-(3-amino-4-pyridyl)piperidine-4-carboxylic acid that was used without further purification. MS (ES+) 222.1.

reactant | methyl 1-(3-amino-4-pyridyl)piperidine-4-carboxylate | NC=1C=NC=CC1N1CCC(CC1)C(=O)OC | C12H17N3O2
reactant | MeOH | 3 mL | CO | CH4O
reactant | LiOH | 2.132 mmol, 51.06 mg | [Li+].[OH-]
solvent | H2O | 0.1 mL | O | H2O
product | 1-(3-amino-4-pyridyl)piperidine-4-carboxylic acid | NC=1C=NC=CC1N1CCC(CC1)C(=O)O | C11H15N3O2
